US04734419
A mixture of 2-amino-N-benzylbenzamide (400 mg), ethyl bromoacetate (295 mg) and potassium carbonate (244 mg) in N,N-dimethylformamide (10 ml) was stirred at 100° C. for 17 hours. After cooling, the reaction mixture was poured into ice-cold water and extracted with diethyl ether. The extract was washed with water and dried. Removal of the solvent gave a residue, which was chromatographed on silica gel. Elution with chloroform gave ethyl 2-[2-(N-benzylcarbamoyl)anilino]-acetate (137 mg).

reactant | 2-amino-N-benzylbenzamide | 400 mg | NC1=C(C(=O)NCC2=CC=CC=C2)C=CC=C1 | C14H14N2O
reactant | ethyl bromoacetate | 295 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 244 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-(N-benzylcarbamoyl)anilino]-acetate | 137 mg | C(C1=CC=CC=C1)NC(=O)C1=C(NCC(=O)OCC)C=CC=C1 | C18H20N2O3
